US07544693B2
(b) (2′R)-5′-(Furo[2,3-b]pyridine-3-yl)spiro[1-azabicyclo[2.2.2]octane-3.2′(3′H)-furo[2,3-b]pyridine]
Prepared by a method analogous to that described for the preparation of Example 1 from (2′R)-5′-trimethylstannyl-spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] and furo[2,3-b]pyridin-3-yl trifluoromethanesulfonate. The title compound was obtained as a colourless solid; m/e 334 (MH+).

reactant | (2′R)-5′-trimethylstannyl-spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | C[Sn](C=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2)(C)C
reactant | furo[2,3-b]pyridin-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=COC2=NC=CC=C21)(F)F | C8H4F3NO4S
product | (2′R)-5′-(Furo[2,3-b]pyridine-3-yl)spiro[1-azabicyclo[2.2.2]octane-3.2′(3′H)-furo[2,3-b]pyridine] | O1C=C(C=2C1=NC=CC2)C=2C=C1C(=NC2)O[C@@]2(C1)CN1CCC2CC1 | C20H19N3O2
